US08048902B2
Step 2: (4′-{3-Methyl-4-[1-(2-trifluoromethyl-phenyl)-ethoxycarbonylamino]-isoxazol-5-yl}-biphenyl-4-yl)-acetic acid ethyl ester
5-(4′-Ethoxycarbonylmethyl-biphenyl-4-yl)-3-methyl-isoxazole-4-carboxylic acid (0.150 g, 0.41 mmol), alpha-methyl-2-trifluoromethylbenzyl alcohol (0.094 g, 0.49 mmol), diphenylphosphoryl azide (0.11 mL, 0.49 mmol), and triethylamine (0.11 mL, 0.49 mmol) were combined in toluene (3 mL) and stirred at 80° C. for 2 hours. After cooling, the mixture was worked-up to give the title compound.

reactant | 5-(4′-Ethoxycarbonylmethyl-biphenyl-4-yl)-3-methyl-isoxazole-4-carboxylic acid | 0.41 mmol, 0.150 g | C(C)OC(=O)CC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)O | C21H19NO5
reactant | alpha-methyl-2-trifluoromethylbenzyl alcohol | 0.49 mmol, 0.094 g | CC(C1=C(C=CC=C1)C(F)(F)F)O | C9H9F3O
reactant | diphenylphosphoryl azide | 0.49 mmol, 0.11 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.49 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | (4′-{3-Methyl-4-[1-(2-trifluoromethyl-phenyl)-ethoxycarbonylamino]-isoxazol-5-yl}-biphenyl-4-yl)-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)OC(C)C1=C(C=CC=C1)C(F)(F)F)=O | C30H27F3N2O5
